US09193728B2
Preparation of 7-methyl-4-nitroso-2-phenyl-3,4-dihydro-2H-benzo[b][1,4]oxazine
7-Methyl-2-phenyl-3,4-dihydro-2H-benzo[b][1,4]oxazine (1.4 g) was dissolved in ethanol (6.5 mL), and to it was added 1N HCl (6.5 mL). The reaction mixture was cooled to 0° C., and a solution of sodium nitrite (0.858 g) in water (23 mL) was added. After addition, the reaction mixture was stirred for 2 h at RT. The reaction was monitored by TLC. After completion of reaction, the mixture was evaporated and dried under high vacuum (1.5 g). The crude compound was carried forward to the next step without further purification.

reactant | 7-Methyl-2-phenyl-3,4-dihydro-2H-benzo[b][1,4]oxazine | 1.4 g | CC=1C=CC2=C(OC(CN2)C2=CC=CC=C2)C1 | C15H15NO
reactant | HCl | 1N, 6.5 mL | Cl | ClH
reactant | sodium nitrite | 0.858 g | N(=O)[O-].[Na+]
solvent | ethanol | 6.5 mL | C(C)O | C2H6O
solvent | water | 23 mL | O | H2O
product | 7-methyl-4-nitroso-2-phenyl-3,4-dihydro-2H-benzo[b][1,4]oxazine | CC=1C=CC2=C(OC(CN2N=O)C2=CC=CC=C2)C1 | C15H14N2O2
